US08492378B2
To a solution of 3-[4-(methylthio)phenyl]imidazo[1,2-a]pyridine-6-carbohydrazide (505 mg, 1.69 mmol) in N,N-dimethylacetamide (4 mL) was added acetyl chloride (0.132 mL, 1.86 mmol) at room temperature, and the resulting mixture was stirred for 1.5 hr. Ethyl acetate was added to the reaction mixture, and the precipitate was collected by filtration to give N′-acetyl-3-[4-(methylthio)phenyl]imidazo[1,2-a]pyridine-6-carbohydrazide (425 mg) as colorless crystals.

reactant | 3-[4-(methylthio)phenyl]imidazo[1,2-a]pyridine-6-carbohydrazide | 1.69 mmol, 505 mg | CSC1=CC=C(C=C1)C1=CN=C2N1C=C(C=C2)C(=O)NN | C15H14N4OS
reactant | acetyl chloride | 1.86 mmol, 0.132 mL | C(C)(=O)Cl | C2H3ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
product | N′-acetyl-3-[4-(methylthio)phenyl]imidazo[1,2-a]pyridine-6-carbohydrazide | 425 mg | C(C)(=O)NNC(=O)C=1C=CC=2N(C1)C(=CN2)C2=CC=C(C=C2)SC | C17H16N4O2S
